US04377576
5,10-Dihydro-10-methyl-5-[3-(pyrrolidino)-propionyl]-11H-dibenzo[b,e][1,4]diazepin-11-one hydrochloride
4.5 gm (0.015 mol) of 5-(3-chloro-propionyl)-5,10-dihydro-10-methyl-11H-dibenzo[b,e][1,4]diazepin-11-one and 2.6 gm (0.0375 mol) of pyrrolidine were refluxed for 2 hours in 45 ml of isopropanol. The reaction mixture was worked up as described in Example 1.

reactant | 5-(3-chloro-propionyl)-5,10-dihydro-10-methyl-11H-dibenzo[b,e][1,4]diazepin-11-one | 0.015 mol, 4.5 gm | ClCCC(=O)N1C2=C(N(C(C3=C1C=CC=C3)=O)C)C=CC=C2 | C17H15ClN2O2
reactant | pyrrolidine | 0.0375 mol, 2.6 gm | N1CCCC1 | C4H9N
solvent | isopropanol | 45 ml | C(C)(C)O | C3H8O
product | 5,10-Dihydro-10-methyl-5-[3-(pyrrolidino)-propionyl]-11H-dibenzo[b,e][1,4]diazepin-11-one hydrochloride | Cl.CN1C2=C(N(C3=C(C1=O)C=CC=C3)C(CCN3CCCC3)=O)C=CC=C2 | InChI=1S/C21H23N3O2.ClH/c1-22-18-10-4-5-11-19(18)24(17-9-3-2-8-16(17)21(22)26)20(25)12-15-23-13-6-7-14-23;/h2-5,8-11H,6-7,12-15H2,1H3;1H
